US04346087
Into an apparatus similar to that in Example 1, were charged 104.2 g (1 mole) of N-hydroxyethylethylenediamine and 116.1 g (1 mole) of methyl 3-formylpropionate. At 130° C., 18 g of water and 32 g of methanol were distilled off. After adding 340.5 g (1 mole) of behenic acid, esterification was carried out at 210° to 220° C. to obtain 4-behenoyloxyethyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one.

reactant | N-hydroxyethylethylenediamine | 1 mole, 104.2 g | OCCNCCN | C4H12N2O
reactant | methyl 3-formylpropionate | 1 mole, 116.1 g | C(=O)CCC(=O)OC | C5H8O3
reactant | behenic acid | 1 mole, 340.5 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
product | 4-behenoyloxyethyl-2,3,6,7-tetrahydro-1,4-diazocin-5-one | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCCN1CCN=CCCC1=O | C30H56N2O3
